US08629286B2
To a solution of 2-[3-(tert-butoxycarbonyl-methyl-amino)-prop-1-ynyl]-thiazole-4-carboxylic acid (1.11 g, 3.75 mmol) in DMF (20 mL) was added diisopropylethylamine (1.93 mL, 11.3 mmol), followed by 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (1.57 g, 4.13 mmol). After stirring 15 min at RT, (1R)-1,2,3,4-tetrahydro-N-methyl-1-naphthalenamine (0.60 g, 3.75 mmol) was added to the reaction mixture. After stirring overnight at RT, solvent was evaporated and the resulting brown oil was dissolved in ethylacetate (30 mL), washed with saturated aqueous sodium bicarbonate solution (50 mL), 1M HCl solution (50 mL), and brine (50 mL). The organic layer was dried over sodium sulfate, filtered, and evaporated under reduced pressure. The crude mixture was purified by column chromatography on silica gel (ethylacetate/cyclohexane 2:8 to 3:7) to give methyl-{3-[4-((R)-methyl-1,2,3,4-tetrahydronaphthalen-1-yl-carbamoyl)-thiazol-2-yl]-prop-2-ynyl}-carbamic acid tert-butyl ester (1.01 g, 61%). 1H-NMR (400 MHz, CDCl3): δ=7.75 (s, 1H (conformers)), 7.03-6.92 (m, 4H), 5.58-5.46 (m, 1H (conformers)), 4.18-4.09 (br, 2H), 2.75 (s, 3H (conformers)), 2.61 (s, 3H), 2.11-1.63 (m, 6H), 1.33 (s, 9H (conformers)). MS: m/z=462 (M+23).

reactant | 2-[3-(tert-butoxycarbonyl-methyl-amino)-prop-1-ynyl]-thiazole-4-carboxylic acid | 3.75 mmol, 1.11 g | C(C)(C)(C)OC(=O)N(CC#CC=1SC=C(N1)C(=O)O)C | C13H16N2O4S
reactant | diisopropylethylamine | 11.3 mmol, 1.93 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 4.13 mmol, 1.57 g | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | (1R)-1,2,3,4-tetrahydro-N-methyl-1-naphthalenamine | 3.75 mmol, 0.60 g | CN[C@@H]1CCCC2=CC=CC=C12 | C11H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | methyl-{3-[4-((R)-methyl-1,2,3,4-tetrahydronaphthalen-1-yl-carbamoyl)-thiazol-2-yl]-prop-2-ynyl}-carbamic acid tert-butyl ester | 1.01 g, 61% | C(C)(C)(C)OC(N(CC#CC=1SC=C(N1)C(N([C@@H]1CCCC2=CC=CC=C12)C)=O)C)=O | C24H29N3O3S
